US07902252B2
The starting aryl halide (i.e., (E)-methyl 4-(3-bromobenzylidene)-1-tosyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate) (0.824 mmol) was dissolved in DMF (8 mL) and H2O (2 mL) was added, forming a suspension. Barium hydroxide (0.213 g, 1.24 mmol) was then added, and the suspension was isolated and back-flushed four times with N2. The boronic acid (i.e. furan-2-boronic acid) (1.23 mmol) was added, and the suspension was isolated and back-flushed with N2 an additional four times and finally sparged with N2 for about 5-10 min. Then tetrakis(triphenylphosphine)palladium(0) (0.143 g, 0.21 mmol) was added, and the reaction was placed in a preheated (80° C.) heating block and stirred for 1 hour. The reaction was diluted with H2O (20 mL) and ethyl acetate (20 mL) and filtered through Celite. The organic layer was collected, washed once with H2O, once with brine, and dried over Na2SO4. Purification by column chromatography afforded the desired coupled product (i.e., (E)-methyl 4-(3-(furan-2-yl)benzylidene)-1-tosyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate). De-protected product (i.e., (E)-methyl 4-(3-(furan-2-yl)benzylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate) may also be formed.

reactant | Barium hydroxide | 1.24 mmol, 0.213 g | [OH-].[Ba+2].[OH-]
reactant | boronic acid | 1.23 mmol | B(O)O | BH3O2
reactant | (E)-methyl 4-(3-(furan-2-yl)benzylidene)-1-tosyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | O1C(=CC=C1)C=1C=C(\C=C\2/CCC=3N(C(=CC32)C(=O)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C27H23NO5S
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | H2O | 20 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.21 mmol, 0.143 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 2 mL | O | H2O
product | (E)-methyl 4-(3-(furan-2-yl)benzylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | O1C(=CC=C1)C=1C=C(\C=C\2/CCC=3NC(=CC32)C(=O)OC)C=CC1 | C20H17NO3
